US04612376
A mixture of 6-(3,4-dimethoxyphenyl)-1-ethyl-3-methyl-2,4(1H,3H)-pyrimidinedione (0.80 g) and phosphorus pentasulfide (1.8 g) in pyridine (18 ml) was refluxed for 15 hours with stirring. The reaction mixture was evaporated under reduced pressure. The residue was washed with 1N-hydrochloric acid and extracted with dichloromethane. The extract was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated in diisopropyl ether to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethyl-3-methyl-4-thioxo-2(1H)-pyrimidinone (0.60 g).

reactant | 6-(3,4-dimethoxyphenyl)-1-ethyl-3-methyl-2,4(1H,3H)-pyrimidinedione | 0.80 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1CC)=O)C)=O | C15H18N2O4
reactant | phosphorus pentasulfide | 1.8 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethyl-3-methyl-4-thioxo-2(1H)-pyrimidinone | 0.60 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1CC)=O)C)=S | C15H18N2O3S
